US09260450B2
Step ii: trifluoro-methanesulfonic acid 5-ethyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl ester
To a stirring mixture of 5-ethyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-ol (7.1 g) and triethylamine (5.4 mL) in dichloromethane (75 mL) at −78° C. under a nitrogen atmosphere was added trifluoromethanesulfonic anhydride (6.5 mL) over 5 minutes. The cold bath was removed and the reaction mixture was allowed to warm to room temperature and was stirred overnight. The reaction mixture was concentrated under reduced pressure and the concentrate was purified by flash silica gel column chromatography. Elution through a silica cartridge (Analogix SuperFlash SF65-400) with a gradient (100% hexanes to 35% ethyl acetate in hexanes over 2400 mL) afforded the title compound as an oil (10.38 g) after chloroform chase; 1H NMR (400 MHz, CDCl3) δ 7.69 (m, 1H), 7.59 (dd, 1H, J=8.2, 0.6 Hz), 7.07 (dd, 1H, J=7.6, 0.4 Hz), 6.10 (s, 1H), 2.68 (quartet, 2H, J=7.6 Hz), 2.57 (s, 3H), 1.28 (t, 3H, J=7.6 Hz); 19F NMR (376 MHz, CDCl3) δ −73.9 (s); MS (APCl+) 336 (MH+), 204 (MH+—SO2CF3).

reactant | 5-ethyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-ol | 7.1 g | C(C)C=1C=C(N(N1)C1=NC(=CC=C1)C)O | C11H13N3O
reactant | triethylamine | 5.4 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 6.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 5-ethyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl ester | 10.38 g | C(C)C=1C=C(N(N1)C1=NC(=CC=C1)C)OS(=O)(=O)C(F)(F)F | C12H12F3N3O3S
